US08211908B2
To a suspension of 60 mg of 1-(2-(4-((3,4-dihydro-2H-pyrano(2,3-c)pyridin-6-ylmethyl)amino)piperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one hydrochloride in 2 mL of methanol, 60 mg of a 28% sodium methoxide/methanol solution, and the mixture was heated under reflux while stirring for 4 hours. Thereto were added water and ethyl acetate, the organic layer was separated, and the aqueous layer was saturated with sodium chloride, and then extracted with ethyl acetate twice. The organic layer and the extract were combined, the resultant solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. To the resultant residue, 1 mL of ethyl acetate was added, and 1 mL of a 4.0 mol/L hydrogen chloride/ethyl acetate solution was added at room temperature. The solvent was distilled off under reduced pressure, ethyl acetate was added to the resultant residue, and the solid was filtered off to obtain 31 mg of 1-(2-(4-((3,4-dihydro-2H-pyrano(2,3-c)pyridin-6-ylmethyl)amino)piperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride as a yellow solid.

reactant | 1-(2-(4-((3,4-dihydro-2H-pyrano(2,3-c)pyridin-6-ylmethyl)amino)piperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one hydrochloride | 60 mg | Cl.O1CCCC=2C1=CN=C(C2)CNC2CCN(CC2)CCN2C(C=CC1=NC=C(C=C21)F)=O
reactant | sodium methoxide methanol | C[O-].[Na+].CO
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 2 mL | CO | CH4O
product | 1-(2-(4-((3,4-dihydro-2H-pyrano(2,3-c)pyridin-6-ylmethyl)amino)piperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride | 31 mg | Cl.O1CCCC=2C1=CN=C(C2)CNC2CCN(CC2)CCN2C(C=CC1=NC=C(C=C21)OC)=O | InChI=1S/C25H31N5O3.ClH/c1-32-21-14-23-22(28-16-21)4-5-25(31)30(23)11-10-29-8-6-19(7-9-29)26-15-20-13-18-3-2-12-33-24(18)17-27-20;/h4-5,13-14,16-17,19,26H,2-3,6-12,15H2,1H3;1H
